Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient is a ___ year old G1P0 at approximately 15+2 weeks by 
unsure LMP of ___ presenting to the ED with nausea and 
vomiting unable to tolerate PO intake for 3 days. Patient 
reports a history of hyperemesis gravidarum since about 8 weeks 
gestation. She was seen for an initial prenatal visit by 
RN-Midwife at ___. She denies having had 
any ultrasounds yet. She has had her initial prenatal labs. She 
had a prescription for PO Zofran which she said was not helping. 
She was seen twice at the ___ urgent care unit for IVF and IV 
antiemetics. Symptoms persisted for 1 month before spontaneous 
resolving. Her symptoms recurred on ___ with severe nausea and 
vomiting. Last meal was chicken soup on that date which she 
could not keep down. She has tried water and ginger ale which 
also makes her nauseated. She is not currently taking any 
antiemetics.

ROS: (+) Back/shoulder pain with emesis, (+) epigastric pain 
with emesis, (+) chills, (+) 8 lb weight loss. Denies fever, 
myalgias, diarrhea, SOB, dizziness, rhinorrhea, cough. No sick 
contacts. Seasonal flu shot 1 month ago. No H1N1.
 
Past Medical History:
PRENATAL COURSE
___ ___ by 17wk U/S (changed from initial ___ ___
*)Labs: A+/Ab-,RI,HbsAg-,RPRnr,HIV-,GC/CT-
*)CF negative, nl hgb electrophoresis
*)No screening/ultrasound prior to this admission

PAST OBSTETRIC HISTORY
G1

PAST GYNECOLOGIC HISTORY
- no paps yet
- denies STDs
- normal menses

PAST MEDICAL HISTORY
denies

PAST SURGICAL HISTORY
denies
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
(on admission)
PE: T 97.8->98.4, BP 129/62->103/56, P ___, RR 20, O2 100%
FHR: 156 bpm
GENERAL: appears tired and weak, lying in stretcher.
CV: RRR
ABDOMEN: soft, gravid, tender to palpation in epigastrium, 
mildly
tender RLQ
EXTREMITIES: no edema

(___) RUQ ULTRASOUND
IMPRESSION: 
Normal-appearing gallbladder. No findings to suggest acute 
cholecystitis. 
  
___ FETAL SURVEY
There is a single live intrauterine pregnancy with fetus in 
cephalic position.  The placenta is fundal. There is no evidence 
of previa. There is a normal amount of amniotic fluid. Views of 
the head, face, stomach, cord insertion site, bladder were 
normal. There is an echogenic focus in the left cardiac 
ventricle. There is polydactyly in the left hand and probably 
polydactyly in the left foot. Both kidneys show caliectasis 
measuring 3 mm.
  
The following biometric data were obtained:
BPD: 17 weeks 2 days  
HC: 16 weeks 6 days 
AC: 17 weeks 4 days 
FL: 17 weeks 5 days 
  
AGE BY ULTRASOUND: 17 weeks 2 days
AGE BY LMP: 15 weeks 3 days
EFW: 199g

IMPRESSION: Single live intrauterine pregnancy at 17 weeks 2 
days. There is an echogenic focus in the left ventricle. 
Bilateral caliectasis without hydronephrosis. Left hand 
polydactyly.
 
Pertinent Results:
___ WBC-12.7 RBC-3.63 Hgb-10.7 Hct-32.5 MCV-89 Plt-460
___ Neuts-90.2 ___ Monos-2.1 Eos-0.2 Baso-0.1
___ ___ PTT-30.7 ___

___ Glu-97 BUN-4 Cre-0.5 Na-138 K-3.4 Cl-107 HCO3-14
___ Glu-89 BUN-3 Creat-0.4 Na-139 K-3.1 Cl-111 HCO3-16
___ Glu-86 BUN-2 Creat-0.3 Na-138 K-3.2 Cl-109 HCO3-18
___ ALT-9 AST-13 AlkPhos-48 TotBili-0.5 Lipase-17
___ Calcium-8.7 Phos-2.1 Mg-1.5 TSH-0.062
___ Calcium-8.4 Phos-3.8 Mg-2.0
___ Calcium-7.7 Phos-2.6 Mg-1.5
___ BLOOD T4-11.0 T3-149 Lactate-0.9

___ BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
  NEGATIVE BY EIA

URINE CULTURE (Final ___: 
  MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT
  WITH SKIN AND/OR GENITAL CONTAMINATION
 
Brief Hospital Course:
___ G1 admitted at 17+1 weeks gestation with hyperemesis.
.
Ms ___ was admitted for IV hydration, antiemetics, and 
electrolyte repletion. She complained of epigastric pain and she 
underwent a right upper quandrant ultrasound which was normal. 
Her ___ was recalculated based on her full fetal survey. An 
additional finding on her fetal survey included an echogenic 
focus in the left ventricle and bilateral caliectasis without 
hydronephrosis, and left hand polydactyly. Ms ___ was 
counseled regarding these findings and opted to have a Quad 
Screen and declined an amniocentesis. The Quad screen was sent 
during this admission. By hospital day #3, she was tolerating 
po's and was discharged home. She will have close outpatient 
followup.
 
Medications on Admission:
Flintstones vitamins
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 17 weeks gestation
hyperemesis
 
Discharge Condition:
stable
 
Discharge Instructions:
try to stay hydrated. Use medication as needed for your nausea. 
call your doctor with any abdominal pain/cramping, leaking of 
fluid, vaginal bleeding, fevers > 100.4, persistent 
nausea/vomiting, unable to tolerate fluids, or with any 
questions or concerns you may have
 
Followup Instructions:
___